US07183276B2
To a mixture of tert-butyl 2-(ethylsulfonyl)ethylcarbamate (1.5 g) and ethyl acetate (15 mL) was added dropwise 4N hydrochloric acid•ethyl acetate solution (4 mL) with stirring under ice-cooling. The mixture was stirred at room temperature for 4 hrs., and the precipitated crystals were collected by filtration and washed with ethyl acetate to give 2-(ethylsulfonyl)ethylamine hydrochloride as crystals. (0.76 g, yield 69%). Recrystallization from ethanol gave colorless prism crystals. melting point: 103–104° C.

reactant | tert-butyl 2-(ethylsulfonyl)ethylcarbamate | 1.5 g | C(C)S(=O)(=O)CCNC(OC(C)(C)C)=O | C9H19NO4S
reactant | hydrochloric acid•ethyl acetate | 4N, 4 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-(ethylsulfonyl)ethylamine hydrochloride | yield 69% | Cl.C(C)S(=O)(=O)CCN | InChI=1S/C4H11NO2S.ClH/c1-2-8(6,7)4-3-5;/h2-5H2,1H3;1H
